US06476045B2
1-{3-[5-Chloro-2-(4-chlorophenyl)-1-methyl-1H-pyrrolo[2,3-b]pyridine-3-yl]-1-oxopropyl}-4-(phenylmethyl)-4-piperidinol
Lithium hydroxide monohydrate (15 mg, 0.34 mmol) was added to a solution of methyl 5-chloro-2-(4-chlorophenyl)-1-methyl-1H-pyrrolo[2,3-b]pyridine-3-propanoate (Description 5, 82 mg, 0.23 mmol) in methanol (15 mL), tetrahydrofuran (5 mL) and water (5 mL) and the mixture was stirred at room temperature overnight. Further lithium hydroxide monohydrate (15 mg, 0.34 mmol) was added and the mixture was stirred at 75° C. for 2 h. The solvent was evaporated under reduced pressure and the residue was dissolved in tetrahydrofuran (25 mL). 1-Hydroxybenzotriazole (549 mg, 1.84 mmol), triethylamine (255 μl, 1.84 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (348 mg, 1.84 mmol) and 4-(phenylmethyl)-4-piperidinol (352 mg, 1.84 mmol) were added and the mixture was stirred at room temperature overnight. The mixture was poured into water and extracted with ethyl acetate. The combined organic fractions were washed with hydrochloric acid (1M), aqueous sodium carbonate (10%) and brine, dried (MgSO4) and the solvent was evaporated under reduced pressure. The residue was purified by flash column chromatography on silica gel, eluting with isohexane/EtOAc (50:50), to give the title compound (98 mg, 83%). 1H NMR (360 MHz, CDCl3) δ 8.28 (1H, d, J 2.2 Hz), 7.90 (1H, d, J 2.2 Hz), 7.27-7.48 (2H, m), 7.36-7.26 (5H, m), 7.16-7.14 (2H, m), 4.36 (1H, m), 3.65 (3H, s), 3.36 (1H, m), 3.19 (1H, m), 3.00 (2H, m), 2.86 (1H, m), 2.67 (2H, s), 2.48 (2H, t, J 7.7 Hz), 1.46 (2H, m), 1.39 (1H, m), and 1.22 (1H, m). m/z (ES+) 522, 524 (M+1).

reactant | Lithium hydroxide monohydrate | 0.34 mmol, 15 mg | O.[OH-].[Li+]
reactant | methyl 5-chloro-2-(4-chlorophenyl)-1-methyl-1H-pyrrolo[2,3-b]pyridine-3-propanoate | 0.23 mmol, 82 mg | ClC=1C=C2C(=NC1)N(C(=C2CCC(=O)OC)C2=CC=C(C=C2)Cl)C | C18H16Cl2N2O2
reactant | lithium hydroxide monohydrate | 0.34 mmol, 15 mg | O.[OH-].[Li+]
reactant | 1-Hydroxybenzotriazole | 1.84 mmol, 549 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | triethylamine | 1.84 mmol, 255 μl | C(C)N(CC)CC | C6H15N
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 1.84 mmol, 348 mg | Cl.CN(CCCN=C=NCC)C
reactant | 4-(phenylmethyl)-4-piperidinol | 1.84 mmol, 352 mg | C1(=CC=CC=C1)CC1(CCNCC1)O | C12H17NO
solvent | methanol | 15 mL | CO | CH4O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | water | 5 mL | O | H2O
product | 1-{3-[5-Chloro-2-(4-chlorophenyl)-1-methyl-1H-pyrrolo[2,3-b]pyridine-3-yl]-1-oxopropyl}-4-(phenylmethyl)-4-piperidinol | 98 mg, 83% | ClC=1C=C2C(=NC1)N(C(=C2CCC(=O)N2CCC(CC2)(O)CC2=CC=CC=C2)C2=CC=C(C=C2)Cl)C | C29H29Cl2N3O2
